US04375476
A solution of 3-cyano-2,6-dimethylbenzoic acid (8.11 grams, 0.049 mole) in tetrahydrofuran (100 ml) was cooled to 0°. Borane (48.7 grams, 0.049 mole) in tetrahydrofuran was added dropwise over a 20 minute period. The mixture was allowed to come to room temperature, and water was added. Potassium carbonate was added to separate the layers. The aqueous layer was extracted with diethyl ether. The extract was added to the organic phase, which was dried over magnesium sulfate, filtered, and the solvent evaporated to give (3-cyano-2,6-dimethylphenyl)methanol (2.93 grams).

reactant | 3-cyano-2,6-dimethylbenzoic acid | 0.049 mole, 8.11 grams | C(#N)C=1C(=C(C(=O)O)C(=CC1)C)C | C10H9NO2
reactant | Borane | 0.049 mole, 48.7 grams | B | BH3
reactant | water | O | H2O
reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (3-cyano-2,6-dimethylphenyl)methanol | 2.93 grams | C(#N)C=1C(=C(C(=CC1)C)CO)C | C10H11NO
